2148-12-29 08:09:00 Physician Resident Progress Note
Chief Complaint:  Low O2 Sat
   24 Hour Events:
 EKG - At [**2148-12-28**] 07:20 PM
   -Pt stable overnight on ventimask. 1a ABG  7.38/43/ 77/ 26
   History obtained from Patient
   Allergies:
   History obtained from PatientAmoxicillin
   Rash;
   Atenolol
   Wheezing;
   Bupropion Hcl
   not tolerated;
   Last dose of Antibiotics:
   Metronidazole - [**2148-12-29**] 12:00 AM
   Levofloxacin - [**2148-12-29**] 05:10 AM
   Infusions:
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): No(t) Rash
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal
   Flowsheet Data as of  [**2148-12-29**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 64 (63 - 81) bpm
   BP: 125/48(67) {97/48(67) - 166/66(79)} mmHg
   RR: 31 (18 - 39) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    893 mL
                                                                  1,369 mL
   PO:
             TF:
   IVF:
                                                                    893 mL
                                                                  1,369 mL
   Blood products:
   Total out:
                                                                    125 mL
                                                                    290 mL
   Urine:
                                                                    125 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    768 mL
                                                                  1,079 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 95%
   ABG: 7.38/43/77/23/0
   PaO2 / FiO2: 77
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, lid lag of left upper eyelid
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases bilat, Diminished: at right base)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2- does not know year, states [**2140**]. Knows
   president. Unsure where she lives, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   145 K/uL
   11.5 g/dL
   266
   2.4 mg/dL
   23 mEq/L
   4.7 mEq/L
   81 mg/dL
   97 mEq/L
   134 mEq/L
   33.1 %
   16.4 K/uL
        [image002.jpg]
                            [**2148-12-29**]  12:00 AM
                            [**2148-12-29**]  12:30 AM
                            [**2148-12-29**]  12:46 AM
                            [**2148-12-29**]  02:00 AM
                            [**2148-12-29**]  03:00 AM
                            [**2148-12-29**]  04:00 AM
                            [**2148-12-29**]  04:32 AM
                            [**2148-12-29**]  05:00 AM
                            [**2148-12-29**]  06:00 AM
                            [**2148-12-29**]  07:00 AM
   WBC
   16.4
   Hct
   33.1
   Plt
   145
   Cr
   2.3
   2.4
   TropT
   0.05
   TCO2
   26
   Glucose
   [**Telephone/Fax (3) 6627**]85
   196
   273
   [**Telephone/Fax (3) 6628**]
   266
   Other labs: PT / PTT / INR:14.5/112.7/1.3, CK / CKMB /
   Troponin-T:112/10/0.05, Differential-Neuts:82.0 %, Band:8.0 %,
   Lymph:4.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.0 mmol/L, Ca++:8.9
   mg/dL, Mg++:2.6 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 DIABETIC KETOACIDOSIS (DKA)
   Assessment: This is a 81 year old female w/h/o DM2, Alzheimer dementia
   who was is admitted for HONC and healthcare associated LLL PNA.
   Plan:
   # HONC: calculated osm 320 on admission; presenting glucose 503. Likely
   precipitated by PNA. On admission, corrected serum sodium is
   normonatremic at 139. Pt
s glucose now down to mid 200
s on insulin gtt
   - continue insulin gtt  until anion gap closes
   - IVF hydration w/D5 1/2 NS
   - Q4h lytes
   - aggressive repletion of electrolytes
   - trend osms
   - q1h FS
   - [**Last Name (un) 276**] c/s today
   # LLL PNA: CXR w/evidence of LLL infiltrate, presentation w/hypoxia.
   Has been afebrile, but w/leukocytosis and bandemia. Large A-a gradient.
   - MDR risk factors include residence in a long-term care facility,
   otherwise none known
   - supplemental oxygen as needed for sat >90
   - Trend WBC count, fever curve
   - send blood and sputum cultures
   - Vanc/Levo/Flagyl to cover for healthcare associated PNA/aspiration
   w/o need for MDR coverage
   - ABG if pt
s O2 sat or clinical status should acutely change.
   # Leukocytosis: no h/o diarrhea
   - send stool for c.diff
   - f/u blood, urine, sputum cx
   - treat w/broad spectrum ABx
   - narrow coverage per cx results
   # ?NSTEMI: EKG w/STD in V4-V6 briefly on admission but elevated Trop
   likely [**3-9**] ARF and CK MB not elevated so unlikely NSTEMI
   - ASA, statin, start BB, hold ACE-I until ARF resolves
   - D/C heparin IV. Start Heparin SC
   - continue to cycle enzymes
   - TTE ordered
   # ARF:
   - likely pre-renal in etiology
   - urine lytes
   - IVF hydration
   - hold nephrotoxic meds
   - renally dose meds
   # Hypertension: Cont BB at this time given stable BP
   # Alzheimers dementia: continue outpt regimen
   # Hyperlipidemia: continue outpt statin
   # Hypothyroidism: continue outpt levothyroxine
   # Gout:  hold allopurinol in the setting of ARF
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Insulin infusion
   Lines:
   22 Gauge - [**2148-12-28**] 06:50 PM
   18 Gauge - [**2148-12-28**] 06:50 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt turned off this am.
   Heparin SC ordered
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code- will d/w family today incl daughter [**Name (NI) 2599**] [**Name (NI) **]
   ([**Telephone/Fax (1) 6630**]) who is HCP
   Disposition:ICU

2148-12-30 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Per discussion with HCP, patient is DNR, but can intubate for short
   period of time.
   - [**Last Name (un) 276**] rec keep insulin gtt on for now in ICU setting, then
   transition to sub Q.
   - O2 weaned to 6L NC by 0000
   Allergies:
   Amoxicillin
   Rash;
   Atenolol
   Wheezing;
   Bupropion Hcl
   not tolerated;
   Last dose of Antibiotics:
   Levofloxacin - [**2148-12-29**] 05:10 AM
   Metronidazole - [**2148-12-30**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-12-29**] 05:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-12-30**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.7
C (96.2
   HR: 77 (58 - 82) bpm
   BP: 144/47(71) {115/41(59) - 170/65(85)} mmHg
   RR: 22 (21 - 38) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,106 mL
                                                                    875 mL
   PO:
             TF:
   IVF:
                                                                  4,106 mL
                                                                    875 mL
   Blood products:
   Total out:
                                                                  1,615 mL
                                                                    500 mL
   Urine:
                                                                  1,615 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,491 mL
                                                                    375 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 92%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, lid lag of left upper eyelid
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases bilat, Diminished: at right base)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2- does not know year, states [**2140**]. Knows
   president. Unsure where she lives, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   148 K/uL
   12.0 g/dL
   89 mg/dL
   2.1 mg/dL
   22 mEq/L
   4.0 mEq/L
   68 mg/dL
   106 mEq/L
   139 mEq/L
   33.8 %
   11.6 K/uL
        [image002.jpg]
                            [**2148-12-29**]  10:00 AM
                            [**2148-12-29**]  11:00 AM
                            [**2148-12-29**]  12:00 PM
                            [**2148-12-29**]  12:51 PM
                            [**2148-12-29**]  01:00 PM
                            [**2148-12-29**]  02:00 PM
                            [**2148-12-29**]  03:00 PM
                            [**2148-12-29**]  04:00 PM
                            [**2148-12-29**]  06:27 PM
                            [**2148-12-30**]  03:02 AM
   WBC
   11.6
   Hct
   33.8
   Plt
   148
   Cr
   2.3
   2.3
   2.1
   Glucose
   142
   177
   172
   139
   137
   138
   128
   117
   63
   89
   Other labs: PT / PTT / INR:14.3/36.1/1.2, CK / CKMB /
   Troponin-T:112/10/0.05, Differential-Neuts:82.0 %, Band:8.0 %,
   Lymph:4.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.0 mmol/L, Ca++:8.5
   mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   81 year old female w/h/o DM2, Alzheimer dementia who was is admitted
   for HONC and healthcare associated LLL PNA.
   Plan:
   # HONC: calculated osm 320 on admission; presenting glucose 503. Likely
   precipitated by PNA. On admission, corrected serum sodium is
   normonatremic at 139. Pt
s glucose now down to mid 200
s on insulin gtt
   - continue insulin gtt  until anion gap closes
   - IVF hydration w/D5 1/2 NS
   - Q4h lytes
   - aggressive repletion of electrolytes
   - trend osms
   - q1h FS
   - [**Last Name (un) 276**] c/s today
   # LLL PNA: CXR w/evidence of LLL infiltrate, presentation w/hypoxia.
   Has been afebrile, but w/leukocytosis and bandemia. Large A-a gradient.
   - MDR risk factors include residence in a long-term care facility,
   otherwise none known
   - supplemental oxygen as needed for sat >90
   - Trend WBC count, fever curve
   - send blood and sputum cultures
   - Vanc/Levo/Flagyl to cover for healthcare associated PNA/aspiration
   w/o need for MDR coverage
   - ABG if pt
s O2 sat or clinical status should acutely change.
   # Leukocytosis: no h/o diarrhea
   - send stool for c.diff
   - f/u blood, urine, sputum cx
   - treat w/broad spectrum ABx
   - narrow coverage per cx results
   # ?NSTEMI: EKG w/STD in V4-V6 briefly on admission but elevated Trop
   likely [**3-9**] ARF and CK MB not elevated so unlikely NSTEMI
   - ASA, statin, start BB, hold ACE-I until ARF resolves
   - D/C heparin IV. Start Heparin SC
   - continue to cycle enzymes
   - TTE ordered
   # ARF:
   - likely pre-renal in etiology
   - urine lytes
   - IVF hydration
   - hold nephrotoxic meds
   - renally dose meds
   # Hypertension: Cont BB at this time given stable BP
   # Alzheimers dementia: continue outpt regimen
   # Hyperlipidemia: continue outpt statin
   # Hypothyroidism: continue outpt levothyroxine
   # Gout:  hold allopurinol in the setting of ARF
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2148-12-28**] 06:50 PM
   18 Gauge - [**2148-12-28**] 06:50 PM
   Prophylaxis:  Boots(Systemic anticoagulation: Heparin gtt turned off
   this am. Heparin SC ordered
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code- will d/w family today incl daughter [**Name (NI) 2599**] [**Name (NI) **]
   ([**Telephone/Fax (1) 6630**]) who is HCP
   Disposition:ICU

2148-12-30 11:36:00 Physician Attending Progress Note
Chief Complaint: Hypoxia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    Patient continues to have hypoxia and is saturating in low 90s on 6
   liters nasal cannula.  Patient has no other complaints and remains HD
   stable.
   24 Hour Events:
   Day 3 of vanc/levo/flagyl
   HD remains stable
   History obtained from [**Hospital 85**] Medical records; full history unable to
   be obtained as patient suffers from dementia
   Allergies:
   Amoxicillin
   Rash;
   Atenolol
   Wheezing;
   Bupropion Hcl
   not tolerated;
   Last dose of Antibiotics:
   Levofloxacin - [**2148-12-29**] 05:10 AM
   Metronidazole - [**2148-12-30**] 08:52 AM
   Vancomycin - [**2148-12-30**] 10:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-12-30**] 08:15 AM
   Other medications:
   Med list reviewed
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:Dementia
   Flowsheet Data as of  [**2148-12-30**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.9
C (96.6
   HR: 73 (58 - 82) bpm
   BP: 128/48(67) {98/38(51) - 170/65(85)} mmHg
   RR: 28 (20 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,106 mL
                                                                  1,701 mL
   PO:
             TF:
   IVF:
                                                                  4,106 mL
                                                                  1,701 mL
   Blood products:
   Total out:
                                                                  1,615 mL
                                                                    790 mL
   Urine:
                                                                  1,615 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,491 mL
                                                                    911 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///22/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.0 g/dL
   148 K/uL
   89 mg/dL
   2.1 mg/dL
   22 mEq/L
   4.0 mEq/L
   68 mg/dL
   106 mEq/L
   139 mEq/L
   33.8 %
   11.6 K/uL
        [image002.jpg]
                            [**2148-12-29**]  10:00 AM
                            [**2148-12-29**]  11:00 AM
                            [**2148-12-29**]  12:00 PM
                            [**2148-12-29**]  12:51 PM
                            [**2148-12-29**]  01:00 PM
                            [**2148-12-29**]  02:00 PM
                            [**2148-12-29**]  03:00 PM
                            [**2148-12-29**]  04:00 PM
                            [**2148-12-29**]  06:27 PM
                            [**2148-12-30**]  03:02 AM
   WBC
   11.6
   Hct
   33.8
   Plt
   148
   Cr
   2.3
   2.3
   2.1
   Glucose
   142
   177
   172
   139
   137
   138
   128
   117
   63
   89
   Other labs: PT / PTT / INR:14.3/36.1/1.2, CK / CKMB /
   Troponin-T:112/10/0.05, Differential-Neuts:82.0 %, Band:8.0 %,
   Lymph:4.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.0 mmol/L, Ca++:8.5
   mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 DIABETIC KETOACIDOSIS (DKA)
   1) Pneumonia:
   - Continue antibiotics (Vanc/Flagyl/levoquin)
   - Albuterol/atrovent
   - Chest PT
   2) HONC: Hyperglycemic again this morning.
   - Sub Q insulin
   - [**Last Name (un) 276**] consult
   3) UTI - Klebsiella
   - on levaquin
   4) Nutrition: Speech and swallow and can advance a diet depending on
   respiratory status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2148-12-28**] 06:50 PM
   18 Gauge - [**2148-12-28**] 06:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition : ICU care
   Total time spent: 35

2148-12-31 10:00:00 Physician Attending Progress Note
Chief Complaint: Hypoxia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, hypoxia continues to improve and blood sugar under better
   control off insulin drip
   24 Hour Events:
 CALLED OUT
   History obtained from Medical records
   Patient unable to provide history: Alzheimer's
   Allergies:
   Amoxicillin
   Rash;
   Atenolol
   Wheezing;
   Bupropion Hcl
   not tolerated;
   Last dose of Antibiotics:
   Levofloxacin - [**2148-12-29**] 05:10 AM
   Vancomycin - [**2148-12-30**] 10:45 AM
   Metronidazole - [**2148-12-31**] 07:56 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-12-31**] 07:56 AM
   Other medications:
   Med List Reviewed - SEE [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable (Dementia)
   Flowsheet Data as of  [**2148-12-31**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 81 (73 - 89) bpm
   BP: 144/57(78) {116/37(57) - 152/90(101)} mmHg
   RR: 29 (20 - 40) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,346 mL
                                                                  1,136 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                  2,106 mL
                                                                    196 mL
   Blood products:
   Total out:
                                                                  1,580 mL
                                                                    535 mL
   Urine:
                                                                  1,580 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    766 mL
                                                                    601 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   ), mild wheeze with coughing
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   confused (baseline), Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   144 K/uL
   145 mg/dL
   1.8 mg/dL
   22 mEq/L
   3.7 mEq/L
   61 mg/dL
   112 mEq/L
   145 mEq/L
   30.6 %
   10.5 K/uL
        [image002.jpg]
                            [**2148-12-29**]  12:00 PM
                            [**2148-12-29**]  12:51 PM
                            [**2148-12-29**]  01:00 PM
                            [**2148-12-29**]  02:00 PM
                            [**2148-12-29**]  03:00 PM
                            [**2148-12-29**]  04:00 PM
                            [**2148-12-29**]  06:27 PM
                            [**2148-12-30**]  03:02 AM
                            [**2148-12-30**]  04:37 PM
                            [**2148-12-31**]  02:50 AM
   WBC
   11.6
   10.5
   Hct
   33.8
   30.6
   Plt
   148
   144
   Cr
   2.3
   2.3
   2.1
   2.0
   1.8
   Glucose
   172
   139
   137
   138
   128
   117
   63
   89
   264
   145
   Other labs: PT / PTT / INR:16.1/71.3/1.4, CK / CKMB /
   Troponin-T:112/10/0.05, ALT / AST:26/26, Alk Phos / T Bili:86/0.2,
   Differential-Neuts:87.1 %, Band:8.0 %, Lymph:8.2 %, Mono:4.0 %, Eos:0.5
   %, Lactic Acid:2.0 mmol/L, LDH:211 IU/L, Ca++:7.9 mg/dL, Mg++:2.3
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 DIABETIC KETOACIDOSIS (DKA)
   1) Pneumonia:
   - hypoxia improving 6 liters -> 4 liters
   - Continue antibiotics
   - Chest PT, albuterol/atrovent
   2)  HONC:
   - off insulin drip and glucose now well-controlled
   3) Acute Renal Failure: slowly improving...likely pre-renal and then
   ATN
   4) NSTEMI
   - ASA, statin, BB
   5) Dementia
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2148-12-28**] 06:50 PM
   18 Gauge - [**2148-12-28**] 06:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition : To Floor
   Total time spent: 35